US06387938B1
Synthesis of ethyl 2-phenylbenzimidazole-4-carboxylate
To a solution of ethyl 2,3-diaminobenzoate (3.0 g) in methanol (60 mL) was added 1 N hydrochloric acid (0.6 mL) and benzaldehyde (1.7 mL), and the mixture was stirred at room temperature for 1 hour. After evaporation of the solvent under a reduced pressure, to the solution of the obtained residue in dichloromethane was added silica gel. The solvent was evaporated under a reduced pressure, and the resulting residue was heated at 100° C. for 1 hour. By purifying the reaction mixture by a silica gel column chromatography (eluent:hexane/ethyl acetate), the title compound was obtained as crystal (1.8 g).

reactant | ethyl 2,3-diaminobenzoate | 3.0 g | NC1=C(C(=O)OCC)C=CC=C1N | C9H12N2O2
reactant | hydrochloric acid | 1 N, 0.6 mL | Cl | ClH
reactant | benzaldehyde | 1.7 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 60 mL | CO | CH4O
product | ethyl 2-phenylbenzimidazole-4-carboxylate | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC=C2C(=O)OCC | C16H14N2O2
